US07199147B2
Water (20 ml) and concentrated sulfuric acid (20 ml) were added to a solution of 1H-indazole-5-carbonitrile (3.00 g, 20.1 mmol) in acetic acid (20 ml) at room temperature, and the resulting mixture was heated at 100° C. for 3 hours. Then, the reaction solution was poured onto ice and the solid precipitated was collected by filtration and dried under reduced pressure to obtain 1H-indazole-5-carboxylic acid (2.88 g, 88%).

reactant | Water | 20 ml | O | H2O
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1H-indazole-5-carbonitrile | 20.1 mmol, 3.00 g | N1N=CC2=CC(=CC=C12)C#N | C8H5N3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1H-indazole-5-carboxylic acid | 2.88 g, 88% | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
